US05756760
In a 300 ml four-necked flask was charged 1.1 g (11 mmol) of (2R,5R)-2,5-dimethylpyrrolidine in a nitrogen stream, and 70 ml of tetrahydrofuran (THF) was added thereto. To the flask was added dropwise 7.7 ml (13.2 mmol) of butyl lithium at -78° C. (methanol-dry ice) over 10 minutes. After maintaining the system at that temperature for 10 minutes, the mixture was stirred at 0° C. for 1 hour to prepare lithium amide. In a separate container 4 g (11 mmol) of 1-methoxy-2-diphenylphosphinylnaphthalene was dissolved in 35 ml of THF, and the lithium amide was slowly added dropwise to the resulting solution cooled to -20° C. (carbon tetrachloride-dry ice), followed by allowing the mixture to react for 4 hours. The reaction was stopped by addition of a saturated sodium chloride aqueous solution, and the reaction mixture was extracted with ethyl ether. The extract was washed with water and dried over anhydrous magnesium sulfate. The resulting crude product was purified by silica gel column chromatography using a 1/1 (by volume) mixture of hexane and acetone as an eluent to give 3.24 g of 1-((2R,5R)-2,5-dimethylpyrrolidinyl)-2-diphenylphosphinylnaphthalene in a yield of 69%.

reactant | (2R,5R)-2,5-dimethylpyrrolidine | 11 mmol, 1.1 g | C[C@H]1N[C@@H](CC1)C | C6H13N
reactant | butyl lithium | 13.2 mmol, 7.7 ml | C(CCC)[Li]
reactant | methanol dry ice | CO.C(=O)=O
reactant | lithium amide | [NH2-].[Li+]
reactant | 1-methoxy-2-diphenylphosphinylnaphthalene | 11 mmol, 4 g | COC1=C(C=CC2=CC=CC=C12)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19O2P
reactant | carbon tetrachloride dry ice | C(Cl)(Cl)(Cl)Cl.C(=O)=O
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 1-((2R,5R)-2,5-dimethylpyrrolidinyl)-2-diphenylphosphinylnaphthalene | 3.24 g, yield of 69% | C[C@H]1N([C@@H](CC1)C)C1=C(C=CC2=CC=CC=C12)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28NOP
